US08420670B2
1.2 4-Chloro-2-methylquinoline-8-sulfonic dimethylamide
4-Chloro-2-methylquinoline-8-sulfonyl chloride (100 mg, 0.362 mmole) and a 40% solution of dimethylamine in water (408 mg, 3.62 mmole) were stirred at 60° C. for 1 h. The content of the flask was filtered off and a white solid was obtained (103 mg, 100%).

reactant | 4-Chloro-2-methylquinoline-8-sulfonyl chloride | 0.362 mmole, 100 mg | ClC1=CC(=NC2=C(C=CC=C12)S(=O)(=O)Cl)C | C10H7Cl2NO2S
reactant | dimethylamine | CNC | C2H7N
reactant | water | 3.62 mmole, 408 mg | O | H2O
product | 4-Chloro-2-methylquinoline-8-sulfonic dimethylamide | CN(S(=O)(=O)C=1C=CC=C2C(=CC(=NC12)C)Cl)C | C12H13ClN2O2S
